US07728155B2
Treatment of (±)-1-(5-methyl-3,6,7,8-tetrahydro-2H-indeno[4,5-b]furan-2-yl)methanamine (2.28 g, 11.2 mmol) with diisopropylethylamine (2.16 g, 16.7 mmol) followed by benzyl chloroformate (2.19 g, 12.8 mmol) generally according to the procedure described for Intermediate 15 gave 4.05 g (81%) of (±)-benzyl (5-methyl-3,6,7,8-tetrahydro-2H-indeno[4,5-b]furan-2-yl)methylcarbamate as a white solid. Rf=0.33 (silica, ethyl acetate:hexanes 1:4); mp 109-113° C.; Anal. calcd. for C21H23NO3: C, 74.75; H, 6.87; N, 4.15. Found: C, 74.42; H, 6.91; N, 4.10. Chiral HPLC separation of (±)-benzyl (5-methyl-3,6,7,8-tetrahydro-2H-indeno[4,5-b]furan-2-yl)methylcarbamate (Chiralcel OJ, methanol) provided two fractions. Fraction 1 (Rt=19.001 min, Chiralcel OJ, methanol); Fraction 2 (Rt=23.125 min, Chiralcel OJ, methanol).

reactant | (±)-1-(5-methyl-3,6,7,8-tetrahydro-2H-indeno[4,5-b]furan-2-yl)methanamine | 11.2 mmol, 2.28 g | CC1=CC2=C(OC(C2)CN)C=2CCCC12 | C13H17NO
reactant | diisopropylethylamine | 16.7 mmol, 2.16 g | C(C)(C)N(CC)C(C)C | C8H19N
reactant | benzyl chloroformate | 12.8 mmol, 2.19 g | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
product | (±)-benzyl (5-methyl-3,6,7,8-tetrahydro-2H-indeno[4,5-b]furan-2-yl)methylcarbamate | 4.05 g, 81% | CC1=CC2=C(OC(C2)CNC(OCC2=CC=CC=C2)=O)C=2CCCC12 | C21H23NO3
